US06017919
The crude product of 4-pentyloxyphthalic acid was dissolved in acetic acid (20 ml), and tyramine hydrochloride (2.74 g, 20 mmol) was added. The mixture was stirred at 96° C. for 4 hours, and concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (hexane/ethyl acetate=6/1) to give N-2-(4-hydroxyphenyl)ethyl-4-pentyloxyphthalimide (2.6 g, 9.4 mmol, 88%) as colorless crystals.

reactant | 4-pentyloxyphthalic acid | C(CCCC)OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C13H16O5
reactant | tyramine hydrochloride | 20 mmol, 2.74 g | Cl.NCCC1=CC=C(C=C1)O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-2-(4-hydroxyphenyl)ethyl-4-pentyloxyphthalimide | 9.4 mmol, 2.6 g, 88% | OC1=CC=C(C=C1)CCN1C(C=2C(C1=O)=CC(=CC2)OCCCCC)=O | C21H23NO4
